data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3046,3411,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]#[N+:10][N-:11][C:12]([CH3:13])=[O:14]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:11]([C:12]([CH3:13])=[O:14])[N:10]=[C:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,14.839445443409202,-51.72618861325439
3521,4013,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([CH3:18])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,20.900894373856765,-30.13409962639051
881,954,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][CH-:20][C:21]#[N:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[O:19][CH:20]3[C:21]#[N:22],water,298.15,6.259648446944536,-69.05159312004179
387,419,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][O:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([C:17]([CH3:18])=[O:19])[o+:20]1>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:16]2([C:17]([CH3:18])=[O:19])[C:14](=[O:15])[O:13][C:12]1([C:10]([O:9][CH3:8])=[O:11])[O:20]2,water,298.15,22.608750196250487,-25.74535749090728
1956,2167,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11](=[O:12])[NH:13][CH3:14])([C:15](=[O:16])[NH:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24]#[N+:25][N-:26][C:27]([CH3:28])=[O:29]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[c:8]2[c:9]([n:26]([C:27]([CH3:28])=[O:29])[n:25][c:24]2[CH3:23])[C:10]([C:11](=[O:12])[NH:13][CH3:14])([C:15](=[O:16])[NH:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1,water,298.15,14.776406518800789,-67.58063708780354
4197,4802,[CH3:6][NH:7][C:8](=[O:9])[C:10]([C:11](=[O:12])[O:13][CH3:14])=[N+:15]([CH3:16])[C-:17]([CH3:18])[C:19]([CH3:20])=[O:21].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:17]([CH3:18])([C:19]([CH3:20])=[O:21])[N:15]([CH3:16])[C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:11](=[O:12])[O:13][CH3:14],water,298.15,60.687728755915785,36.72688671017268
620,680,[CH3:13][O:14][C:15](=[O:16])[CH:17]=[O+:18][N-:19][C:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:19]([C:20]#[N:21])[O:18][CH:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,16.323482132354233,-49.64615052145554
5198,5898,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[C-:26]([CH3:27])[C:28]([CH3:29])=[O:30]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:26]([CH3:27])([C:28]([CH3:29])=[O:30])[N:24]([CH3:25])[C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,37.90268161210336,5.095605214558902
759,821,[CH3:15][C:16](=[O:17])[C:18]([CH3:19])=[O+:20][C-:21]([CH3:22])[CH3:23].[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[F:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:18]([C:16]([CH3:15])=[O:17])([CH3:19])[O:20][C:21]2([CH3:22])[CH3:23],water,298.15,9.300717626253908,-51.30847924095613
3979,4552,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[N-:19][C:20]#[N:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:19]([C:20]#[N:21])[N:17]([CH3:18])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,18.98970078676177,-13.431295396824028
3074,3455,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8]([CH3:9])=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:12]#[N:13])([C:14]#[N:15])[O:10][C:8]1([CH3:7])[CH3:9],water,298.15,19.816111794537424,-24.18914202878493
1597,1766,[CH3:15][C:16](=[O:17])[CH-:18][NH+:19]=[C:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:18]([C:16]([CH3:15])=[O:17])[NH:19][C:20]3([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,13.649174701411033,-37.93711501106947
596,653,[CH3:14][N:15]=[NH+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]1[C:7]2([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:15]([CH3:14])[NH:16][N:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,29.689731233977703,-11.239691688329485
